US08791129B2
2-[2-Amino-4-(1,3-dihydroisoindole-2-carbonyl)quinazolin-6-yl]-4,5-difluorobenzyl 2,2-dimethylpropionate (“A77”)
47 μl of pivaloyl chloride are added to a solution of 200 mg of [2-amino-6-(4,5-difluoro-2-hydroxymethylphenyl)quinazolin-4-yl]-(1,3-dihydroisoindol-2-yl)methanone and 2 mg of 4-(dimethylamino)pyridine (DMAP) in 4 ml of dimethylformamide, and the mixture is stirred at 80° C. for 16 h. 8 ml of ethyl acetate and 8 ml of water are added, the organic phase is separated off and evaporated to dryness in vacuo. The residue is dissolved in 1 ml of dimethyl sulfoxide and purified by chromatography (reversed phase HPLC).

reactant | pivaloyl chloride | 47 μl | C(C(C)(C)C)(=O)Cl | C5H9ClO
reactant | [2-amino-6-(4,5-difluoro-2-hydroxymethylphenyl)quinazolin-4-yl]-(1,3-dihydroisoindol-2-yl)methanone | 200 mg | NC1=NC2=CC=C(C=C2C(=N1)C(=O)N1CC2=CC=CC=C2C1)C1=C(C=C(C(=C1)F)F)CO | C24H18F2N4O2
reactant | ethyl acetate | 8 ml | C(C)(=O)OCC | C4H8O2
reactant | water | 8 ml | O | H2O
catalyst | 4-(dimethylamino)pyridine | 2 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dimethylformamide | 4 ml | CN(C=O)C | C3H7NO
product | 2-[2-Amino-4-(1,3-dihydroisoindole-2-carbonyl)quinazolin-6-yl]-4,5-difluorobenzyl 2,2-dimethylpropionate | CC(C(=O)OCC1=C(C=C(C(=C1)F)F)C=1C=C2C(=NC(=NC2=CC1)N)C(=O)N1CC2=CC=CC=C2C1)(C)C | C29H26F2N4O3
